US06555577B1
(E)-(S)-Ethyl 3-{4-[3-(2′,5′-Dimethoxy-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionate
The title compound (0.765 g, 61%) was prepared as a colourless gum from (E)-3-(2′,5′-dimethoxy-biphenyl-4-yl)-but-2-en-1-ol (0.711 g, 2.50 mmol) and (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate (0.655 g, 2.75 mmol) by a procedure analogous to that described in example 52c.

reactant | (E)-3-(2′,5′-dimethoxy-biphenyl-4-yl)-but-2-en-1-ol | 2.50 mmol, 0.711 g | COC1=C(C=C(C=C1)OC)C1=CC=C(C=C1)/C(=C/CO)/C | C18H20O3
reactant | (S)-ethyl 2-ethoxy-3-(4-hydroxyphenyl)-propionate | 2.75 mmol, 0.655 g | C(C)O[C@H](C(=O)OCC)CC1=CC=C(C=C1)O | C13H18O4
product | (E)-(S)-Ethyl 3-{4-[3-(2′,5′-Dimethoxy-biphenyl-4-yl)-but-2-enyloxy]-phenyl}-2-ethoxy-propionate | 0.765 g, 61% | COC1=C(C=C(C=C1)OC)C1=CC=C(C=C1)/C(=C/COC1=CC=C(C=C1)C[C@@H](C(=O)OCC)OCC)/C | C31H36O6
